US07282588B2
5-(4-nitrophenyl)-1H-pyrazole
A solution of 1-(4-nitrophenyl)ethanone (605.5 mmol) and bis(methyloxy)methanamine (726 mmol) in N,N-dimethylformamide (1000 mL) was stirred for 1 h at 80° C. The reaction was concentrated in vacuo, the residue was dissolved in ethanol (1000 mL) and treated with hydrazine monohydrate (1816 mmol). After the reaction stirred 2 h at 70° C. it was cooled to room temperature and poured into ice-water (2000 mL). Product precipitated out of solution, which was filtered, washed with water (4×500 mL) and dried to provide the title product as a yellow powder (98%). ESMS [M+H]+: 190.2

reactant | 1-(4-nitrophenyl)ethanone | 605.5 mmol | [N+](=O)([O-])C1=CC=C(C=C1)C(C)=O | C8H7NO3
reactant | bis(methyloxy)methanamine | 726 mmol | COC(N)OC | C3H9NO2
reactant | hydrazine monohydrate | 1816 mmol | O.NN
solvent | N,N-dimethylformamide | 1000 mL | CN(C=O)C | C3H7NO
product | 5-(4-nitrophenyl)-1H-pyrazole | 98% | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=NN1 | C9H7N3O2
